US06028096
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (5.0 g) in acetonitrile (60 ml) at room temperature was added N-iodosuccinimide (3.52 g), portionwise over a period of five minutes. Stirring was continued for 1 hr and the mixture was then evaporated to dryness to provide the crude product (8.2 g), still containing succinimide. This may be used without further purification or, if desired, purified by partitioning between dichloromethane and water, separating, drying (MgSO4) and evaporating the organic layer to produce a yellow solid. Trituration with hexane provides the title compound as a white solid, m.p. 213° C. (decomp.).

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 5.0 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C11H5Cl2F3N4
reactant | N-iodosuccinimide | 3.52 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | hexane | CCCCCC | C6H14
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
